US06150352
Step 4.2B 2-{2-[7-chloro-3-(3.5-dimethylphenyl)-6-iodo-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester (10 g in 450 mL dry tetrahydrofuran) was added 22.3 g of 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-iodo-1H-quinolin-2-one followed by 13.7 g of triphenylphosphine and the mixture stirred at room temperature. To this was added 8.2 mL of diethyl azodicarboxylate (DEAD) and stirring was continued for 72 hours. At this time the solvents were removed to a minimum volume in vacuo and the mixture filterd through a silica gel pad to remove the phosphine by-products. The filtrate was concentrated in vacuo to provide the partially purified title compound (17.5 g).

reactant | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-iodo-1H-quinolin-2-one | 22.3 g | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O)I | C17H13ClINO2
reactant | triphenylphosphine | 13.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.2 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 450 mL, 10 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
product | 2-{2-[7-chloro-3-(3.5-dimethylphenyl)-6-iodo-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)I)Cl)=O)C1=CC(=CC(=C1)C)C | C29H34ClIN2O4
